US05756497
5,6,7,8-Tetrahydro-5-quinolinone, synthesized according to the literature procedure by F. Zymalkowski and H. Rimek, Arch. Pharm. (1961) volume 294, pp. 759-765, (10.0 g, 67.9 mol) was dissolved in MeOH (350 mL) and cooled to 0° C. under an atmosphere of nitrogen. To the solution was added NaBH4 (7.7 g, 0.204 mol) portionwise over 60 minutes. The reaction was stirred at ambient temperature for 24 h. The mixture was concentrated under reduced pressure and partitioned between EtOAc (600 mL) and saturated aqueous NaHCO3 (250 mL). The EtOAc layer was dried (MgSO4), filtered, and the solvent was removed under reduced presssure. The residue was purified by pressurized silica gel column chromatography using 97:3 CH2Cl2 :MeOH as eluant. 5-Hydroxy 5,6,7,8-tetrahydro-quinoline was obtained as a pale yellow solid (TLC Rf = 0.14 (98:2 CH2Cl2 :MeOH)).

reactant | 5,6,7,8-Tetrahydro-5-quinolinone | N1=CC=CC=2C(CCCC12)=O | C9H9NO
reactant | NaBH4 | 0.204 mol, 7.7 g | [BH4-].[Na+]
solvent | MeOH | 350 mL | CO | CH4O
product | 5-Hydroxy 5,6,7,8-tetrahydro-quinoline | OC1C=2C=CC=NC2CCC1 | C9H11NO
